US06297253B1
Compound No. 17 (CNI-1794): A suspension of p-aminoacetophenone (1.35 g) and 2-amino-4-chloro-6-methylpyrimidine (1.435 g) in 20 mL water was treated with 0.85 mL conc HCl and heated at reflux for 1 hr. Addition of 20 mL 1N KOH gave a light buff solid, which was filtered out and dried to give 2.28 g 4-(4-acetylphenyl)amino-2-amino-6-methylpyrimidine, mp 194-196° C. Of this, 1.21 g was treated with methyl iodide (3 mL) in dimethylformamide (15 mL) at room temperature for 42 hr. Dilution with ethyl acetate and filtration gave 1.11 g 4-(4-acetylphenyl)amino-2-amino-1,6-dimethylpyrimidinium iodide as a white powder, mp 302-3° C.

reactant | p-aminoacetophenone | 1.35 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | 2-amino-4-chloro-6-methylpyrimidine | 1.435 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | HCl | 0.85 mL | Cl | ClH
reactant | KOH | 1N, 20 mL | [OH-].[K+]
solvent | water | 20 mL | O | H2O
product | 4-(4-acetylphenyl)amino-2-amino-6-methylpyrimidine | 2.28 g | C(C)(=O)C1=CC=C(C=C1)NC1=NC(=NC(=C1)C)N | C13H14N4O
